US09035062B2
Sequential Synthesis of (2S,5R)-tert-butyl 5-(benzyloxyamino)piperidine-2-carboxylate (E)
A solution of 47.9 g (161 mmol) of (2S,5S)-tert-butyl 5-hydroxy-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate in dehydrated acetonitrile (318 mL) was cooled from −30 to −40° C. under argon atmosphere, and 20.5 mL (177 mmol) of 2,6-lutidine was added, and then 28.4 mL (169 mmol) of trifluoromethanesulfonic acid anhydride was added dropwise over 40 minutes, followed by further allowing to react at −30° C. for 15 minutes. To this reaction mixture was added 39.7 g (322 mmol) of benzyloxyamine (washed with acetonitrile (11 mL)) within 8 minutes, followed by raising the temperature to 0° C. within 30 minutes, and further 20.5 mL (177 mmol) of 2,6-lutidine was added, followed by allowing to react at 0 to 5° C. for 2 days. This reaction mixture was concentrated under reduced pressure, and the resulting residue was diluted with ethyl acetate (960 mL) and washed sequentially with water (960 mL), 10% aqueous citric acid solution (960 mL×3 times), 6.5% aqueous sodium hydrogencarbonate solution (480 mL) and saturated brine (480 mL). Each aqueous layer was back-extracted with ethyl acetate (960 mL), the organic layers were combined, and the solvent was distilled off under reduced pressure. The resulting residue was dissolved in 1,4-dioxane (320 mL) solution and water (86 mL), and, under ice cooling, 2.5M NaOH (128 mL) was added dropwise, followed by allowing to react at the same temperature for 0.5 hours. Acetic acid (ca. 9.3 mL) was added to the reaction mixture, followed by concentration under reduced pressure, and subsequently the resulting concentrated residue was extracted with ethyl acetate (580 mL, 290 mL). After the organic layers were washed respectively with 50% aqueous potassium carbonate solution (580 mL), they were combined, and the solvent was distilled off under reduced pressure. The resulting residue was applied to silica gel column chromatography (hexane/ethyl acetate=4/1→0/1→ethyl acetate/methanol=100/1→19/1) to afford 36.58 g of the title compound as a colorless oil (yield 74%). Instrumental data were consistent with those of Example 4.

reactant | (2S,5S)-tert-butyl 5-hydroxy-1-(2,2,2-trifluoroacetyl)piperidine-2-carboxylate | 161 mmol, 47.9 g | O[C@H]1CC[C@H](N(C1)C(C(F)(F)F)=O)C(=O)OC(C)(C)C | C12H18F3NO4
reactant | 2,6-lutidine | 177 mmol, 20.5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | 169 mmol, 28.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | benzyloxyamine | 322 mmol, 11 mL, 39.7 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 2,6-lutidine | 177 mmol, 20.5 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 318 mL | C(C)#N | C2H3N
solvent | Acetic acid | ca. 9.3 mL | C(C)(=O)O | C2H4O2
product | (2S,5R)-tert-butyl 5-(benzyloxyamino)piperidine-2-carboxylate | 36.58 g, yield 74% | C(C1=CC=CC=C1)ON[C@@H]1CC[C@H](NC1)C(=O)OC(C)(C)C | C17H26N2O3
